*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS350ARA471MHA0G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS350ARA471MHA0G_20deg-C 1 2

C1 4 2 8.64e-05
C2 5 2 2.61e-04
C3 6 2 4.72e-05
R1 3 4 6.37e-02
R2 4 5 3.16e-02
R3 5 6 6.71e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS350ARA471MHA0G_-55deg-C 1 2

C1 4 2 1.21e-06
C2 5 2 5.91e-05
C3 6 2 2.68e-04
R1 3 4 6.02e-01
R2 4 5 1.87e-01
R3 5 6 4.29e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS350ARA471MHA0G_105deg-C 1 2

C1 4 2 1.75e-04
C2 5 2 2.36e-04
C3 6 2 2.33e-05
R1 3 4 3.13e-02
R2 4 5 1.81e-02
R3 5 6 5.33e+00
L1 1 3 3.90e-09

.ENDS
*$
